* AD103 Lab 03, extension 1 - a sixth curve at V_GS = 1.05 V
*
* Four edits from spice/id_vds.spice: add 1.05 to the foreach list, add one
* more "let", add one more name to the wrdata line, and remember that the plot
* numbering shifts - the new sweep runs second, so it is dc2 and everything
* after it moves down by one. That last part is the whole exercise.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

XM1 d g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5

Vgs g 0 0
Vds d 0 0

.control
foreach vg 0.6 1.05 0.9 1.2 1.5 1.8
  alter Vgs = $vg
  dc Vds 0 1.8 0.01
end
setplot dc1
let id_vgs06  = -dc1.i(vds)
let id_vgs105 = -dc2.i(vds)
let id_vgs09  = -dc3.i(vds)
let id_vgs12  = -dc4.i(vds)
let id_vgs15  = -dc5.i(vds)
let id_vgs18  = -dc6.i(vds)
wrdata ../results/id_vds_six.txt id_vgs06 id_vgs09 id_vgs105 id_vgs12 id_vgs15 id_vgs18
print id_vgs105[180]
.endc
.end
